US08026257B2
(S)-tert-butyl 4-((1-(3,5-dichloro-1H-indazol-7-yl)-2-fluoroethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-fluoroethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (90 mg, 0.178 mmol) and sodium hydroxide (4N in water) (0.056 mL, 0.222 mmol) in ethanol (1.7 mL, 29.1 mmol) at 0 C was added NCS (47.5 mg, 0.356 mmol), it was stirred at 0 C for 2 h when most S.M. converted to product. The reaction was treated with 0.03 ml of 4 N NaOH, 1 eq. of NCS and was stirred at 0 C for another 2 h., there is still some unreacted SM by TLC. The reaction was quenched by addition of aqueous ammonia and diluted with Et2O. The organic layer was washed with water (2×) then brine, dried over MgSO4, filtered and concentrated. The crude product was purified by silica gel column chromatography (25% EtOAc/Hex) to give title compound (72 mg, 74.9% yield) as clear oil. 1H-NMR (CDCl3, 500 MHz) δ 7.57 (d, J=1.83, 1H), 7.28-7.25 (m, 2H), 7.09-7.06 (m, 3H), 4.6-4.4 (m, 3H), 3.77-3.6 (m, 2H), 3.51 (d, J=9.16 Hz, 1H), 3.39 (d, J=9.16 Hz, 1H), 3.08-2.95 (m, 2H), 2.27 (m, 1H), 2.05 (m, 1H), 1.86 (m, 1H), 1.74 (m, 1H), 1.43 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 161.8 (d, J=247.6 Hz), 154.9, 137.8, 137.6, 134.4, 128.73, 127.67, 126.7, 122.2, 121.8, 119.0, 115.9, 115.8, 85.7, 84.3, 81.1, 80.9, 79.7, 42.5, 41.4, 32.4, 32.1, 31.7, 28.5, 22.7, 14.2. LC/MS (HPLC method 3): tR=4.12 min, 540.1(MH)+.

reactant | tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-fluoroethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.178 mmol, 90 mg | ClC=1C=C2C=NNC2=C(C1)C(CF)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C26H30ClF2N3O3
reactant | sodium hydroxide | 0.222 mmol, 4N, 0.056 mL | [OH-].[Na+]
reactant | ethanol | 29.1 mmol, 1.7 mL | C(C)O | C2H6O
reactant | NCS | 0.356 mmol, 47.5 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | NaOH | 4 N, 0.03 ml | [OH-].[Na+]
reactant | NCS | 1 eq. | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
product | (S)-tert-butyl 4-((1-(3,5-dichloro-1H-indazol-7-yl)-2-fluoroethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 72 mg, 74.9% yield | ClC1=NNC2=C(C=C(C=C12)Cl)[C@@H](CF)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C26H29Cl2F2N3O3
